US07262192B2
tert-Butyl 3-dimethylaminoazetidine-1-carboxylate
A mixture of tert-butyl 3-iodoazetidine-1-carboxylate (EP 1176147, prep 18) (5 g, 17.6 mmol) and dimethylamine (27 mL, 33% in ethanol, 176 mmol) was heated to 80° C. for 28 hours in a sealed vessel. The cooled mixture was evaporated in vacuo and the residue pre-adsorbed onto silica gel. This was then purified by column chromatography on silica gel using ethyl acetate:hexane (50:50) as eluant to afford the title compound as a yellow oil, 1.07 g.

reactant | tert-butyl 3-iodoazetidine-1-carboxylate | 17.6 mmol, 5 g | IC1CN(C1)C(=O)OC(C)(C)C | C8H14INO2
reactant | dimethylamine | 176 mmol, 27 mL | CNC | C2H7N
product | tert-Butyl 3-dimethylaminoazetidine-1-carboxylate | CN(C1CN(C1)C(=O)OC(C)(C)C)C | C10H20N2O2
